US04041032
To 20 ml. of a solution of 0.1 g. metallic sodium in methanol was added 0.3 g. of methyl 3-chloro-5,6-dimethylpyrazine-2-carboxylate and the mixture was refluxed for one hour. The methanol was distilled off from the reaction mixture and the residue obtained was added to 20 ml. of water and the mixture was extracted three times each time with 20 ml. of dichloromethane. The extracts were combined, dried over anhydrous magnesium sulfate, and then the dichloromethane was distilled off to provide 0.2 g of methyl 3-methoxy-5,6-dimethylpyrazine-2-carboxylate. The yellow prism crystals obtained by recrystallizing from n-hexane melted at 80°-81° C.

reactant | sodium | [Na] | Na
reactant | methyl 3-chloro-5,6-dimethylpyrazine-2-carboxylate | ClC=1C(=NC(=C(N1)C)C)C(=O)OC | C8H9ClN2O2
reactant | methanol | CO | CH4O
product | methyl 3-methoxy-5,6-dimethylpyrazine-2-carboxylate | 0.2 g | COC=1C(=NC(=C(N1)C)C)C(=O)OC | C9H12N2O3
